US05428021
A solution of 0.75 g (2.8 mmoles) 6-nitro-5-ethyl-2-ethoxy-3,1-benzoxazin-4-one in 35 mL ethyl acetate was transferred to a Parr bottle. 0.40 g (0.38 mmoles) of 10% Pd/C catalyst was added. The sample was hydrogenated on a Parr shaker at ambient temperature and 1 atm pressure for 3 hours. The catalyst was removed by filtration through a pad of Celite. The filtrate was concentrated in vacuo to produce a bright yellow solid. There was obtained 0.58 g (86% yield) of 6-amino-5-ethyl-2-ethoxy-3,1-benzoxazin-4-one. NMR(CDCl3): 1.22 (t,3H,J=7.5 Hz), 1.42(t,3H,J=7.2 Hz), 3.14(q,2H,J=7.5 Hz), 4.44(q,2H,J=7.2 Hz), 7.09(d,1H,J=8.7 Hz), 7.14(d,1H,J=8.7 Hz). MS(m/z): 234(M+).

reactant | 6-nitro-5-ethyl-2-ethoxy-3,1-benzoxazin-4-one | 2.8 mmoles, 0.75 g | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)OCC)=O)C1CC | C12H12N2O5
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.38 mmoles, 0.40 g | [Pd] | Pd
product | 6-amino-5-ethyl-2-ethoxy-3,1-benzoxazin-4-one | 0.58 g, 86% yield | NC=1C=CC2=C(C(OC(=N2)OCC)=O)C1CC | C12H14N2O3
